US07576115B2
Synthesis of 5-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylic acid
From methyl 5-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate (56.3 mg, 0.12 mmol) and 0.2 M sodium hydroxide aqueous solution (1.89 mL, 0.38 mmol), 7.5 mg of the desired product was obtained in the same manner as in Synthetic Example 66 as a pale yellow solid (yield 14%).

reactant | methyl 5-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate | 0.12 mmol, 56.3 mg | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(S1)C(=O)OC)O | C19H14Cl2N2O4S2
reactant | sodium hydroxide | 0.38 mmol, 0.2 M, 1.89 mL | [OH-].[Na+]
product | 5-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylic acid | 7.5 mg | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(S1)C(=O)O)O | C18H12Cl2N2O4S2
